US07964608B2
1-(1-Benzenesulfonyl-piperidin-4-yl)-3-(3-chloro-phenyl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (51 mg) was prepared according to general procedure H from 3-(3-chloro-phenyl)-7-methoxy-1-piperidin-4-yl-1H-pyrimido[5,4-c]quinoline-2,4-dione.dihydrochloride (50 mg, 0.1 mmol) and benzenesulfonyl chloride. LCMS: m/z 577 [M+1]+.

reactant | 3-(3-chloro-phenyl)-7-methoxy-1-piperidin-4-yl-1H-pyrimido[5,4-c]quinoline-2,4-dione.dihydrochloride | 0.1 mmol, 50 mg | Cl.Cl.ClC=1C=C(C=CC1)N1C(N(C2=C(C=NC=3C(=CC=CC23)OC)C1=O)C1CCNCC1)=O
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | 1-(1-Benzenesulfonyl-piperidin-4-yl)-3-(3-chloro-phenyl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione | 51 mg | C1(=CC=CC=C1)S(=O)(=O)N1CCC(CC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C2=CC(=CC=C2)Cl)=O | C29H25ClN4O5S
